US08314087B2
6-Phenyl-2-(quinolin-6-ylmethyl)pyridazin-3(2H)-one
To a 25 mL round-bottomed flask containing 6-(bromomethyl)quinoline (0.35 g, 1.6 mmol) was added benzene (10 mL), 6-phenyl-3(2H)-pyridazinone (0.15 g, 0.87 mmol, Aldrich), tetrabutylammonium bromide (0.056 g, 0.17 mmol) and potassium hydroxide (0.15 g, 2.6 mmol). The mixture was stirred at 25° C., then poured into aq. NaHCO3 (100 mL) and extracted with EtOAc (3×50 mL). The combined extracts were washed with brine (50 mL), dried (Na2SO4) and concentrated onto silica. Purification by silica gel chromatography (0.5 to 5.0% MeOH (2 M in NH3)/CH2Cl2) afforded the title compound as a white solid (0.050 g, 18% yield). MS (ESI pos. ion) m/z (MH+): 314. Calc'd exact mass for C20H15N3O: 313. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.88 (dd, J=4.2, 1.7 Hz, 1 H), 8.38 (dd, J=8.4, 0.8 Hz, 1 H), 8.11 (d, J=9.6 Hz, 1 H), 8.01 (d, J=8.6 Hz, 1 H), 7.88-7.93 (m, 3 H), 7.78 (dd, J=8.8, 2.0 Hz, 1 H), 7.43-7.54 (m, 4H), 7.13 (d, J=9.8 Hz, 1 H), 5.54 (s, 2 H).

reactant | 6-(bromomethyl)quinoline | 1.6 mmol, 0.35 g | BrCC=1C=C2C=CC=NC2=CC1 | C10H8BrN
reactant | 6-phenyl-3(2H)-pyridazinone | 0.87 mmol, 0.15 g | C1(=CC=CC=C1)C=1C=CC(NN1)=O | C10H8N2O
reactant | potassium hydroxide | 2.6 mmol, 0.15 g | [OH-].[K+]
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
catalyst | tetrabutylammonium bromide | 0.17 mmol, 0.056 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | benzene | 10 mL | C1=CC=CC=C1 | C6H6
product | 6-Phenyl-2-(quinolin-6-ylmethyl)pyridazin-3(2H)-one | 0.050 g, 18% yield | C1(=CC=CC=C1)C=1C=CC(N(N1)CC=1C=C2C=CC=NC2=CC1)=O | C20H15N3O
